US05672715
A solution of 5.5 g of 4-(4-chlorophenyl)-4-ethoxy-1,1,1-trifluoro-3-methyl-3-buten-2-one in 20 mL of MeOH was slowly treated with 0.70 mL of NH2NH2 and allowed to stir for two hours. Water was added to the reaction mixture and a precipitate formed. The solid was collected by filtration and washed with hexanes to yield 3.87 g of 5-(4-chlorophenyl)-4-methyl-3-(trifluoromethyl)-1H-pyrazole as a white powdery product: mp 139.0° C.; 1HNMR (CDCl3) δ 2.09 (s, 3H), 7.39 (m, 2H), 7.45 (m, 2H, 8.5 Hz), 11.75 (bs, 1H). 19 FNMR (CDCl3) δ -62.34 (3F). Anal. Calcd for C11H8 N2F3Cl: C, 50.69; H, 3,09; N, 10.57. Found: C, 50.68; H, 3.05; N, 10.81.

reactant | 4-(4-chlorophenyl)-4-ethoxy-1,1,1-trifluoro-3-methyl-3-buten-2-one | 5.5 g | ClC1=CC=C(C=C1)C(=C(C(C(F)(F)F)=O)C)OCC | C13H12ClF3O2
reactant | NH2NH2 | 0.70 mL | NN | H4N2
reactant | Water | O | H2O
solvent | MeOH | 20 mL | CO | CH4O
product | 5-(4-chlorophenyl)-4-methyl-3-(trifluoromethyl)-1H-pyrazole | 3.87 g | ClC1=CC=C(C=C1)C1=C(C(=NN1)C(F)(F)F)C | C11H8ClF3N2
